US06403779B1
5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)-5-methyluridine
5′-O-t-Butyldiphenylsilyl-3-benzyloxymethyl-2′-O-(methoxyethyl)-5-methyluridine is dissolved in anhydrous MeOH and is added to a pressure bottle containing 10% Pd on carbon under an argon atmosphere. The vessel is pressurized with hydrogen gas to 30 psi and shaken for 16 hours. The mixture is filtered through a celite pad and the solvent is evaporated in vacuo. The residue is dissolved in 1M NEt3in anhydrous MeOH and the solution is heated at reflux temperature for 2 hours. The solvent is evaporated in vacuo to give the title compound.

reactant | 5′-O-t-Butyldiphenylsilyl-3-benzyloxymethyl-2′-O-(methoxyethyl)-5-methyluridine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)N(C(=O)C(=C1)C)COCC1=CC=CC=C1)OCCOC)O | C37H46N2O8Si
reactant | hydrogen | [H][H] | H2
solvent | MeOH | CO | CH4O
catalyst | Pd on carbon | [Pd] | Pd
product | 5′-O-t-Butyldiphenylsilyl-2′-O-(methoxyethyl)-5-methyluridine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C(=C1)C)OCCOC)O | C29H38N2O7Si
